US07163931B2
Preparation of the Ethinyl Estradiol-beta-cyclodextrin Complex
Process 2 (P2): Ethinyl estradiol is dissolved in acetone. β-cyclodextrin is dissolved at 45 C in water. The ethinyl estradiol solution is added to the beta-cyclodextrin solution. The obtained suspension is stirred for some hours at temperatures below 25° C. Afterwards, the crystallization product is isolated and dried by methods described infra.

reactant | Ethinyl estradiol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@]2(C#C)O)O | C20H24O2
reactant | β-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | Ethinyl Estradiol beta-cyclodextrin | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@]2(C#C)O)O.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C42H70O35.C20H24O2/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;1-3-20(22)11-9-18-17-6-4-13-12-14(21)5-7-15(13)16(17)8-10-19(18,20)2/h8-63H,1-7H2;1,5,7,12,16-18,21-22H,4,6,8-11H2,2H3/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;16-,17-,18+,19+,20+/m11/s1
